US04473586
10 g. of 1-aminomethyl-6,7-dimethoxy-1-hydroxy-1,2,3,4-tetrahydronaphthalene is treated with HCl as described in Example 3 to yield 1-aminomethyl-6,7-dimethoxy-3,4-dihydronaphthalene HCl; m.p. 197°-199° C.

reactant | 1-aminomethyl-6,7-dimethoxy-1-hydroxy-1,2,3,4-tetrahydronaphthalene | NCC1(CCCC2=CC(=C(C=C12)OC)OC)O | C13H19NO3
reactant | HCl | Cl | ClH
product | 1-aminomethyl-6,7-dimethoxy-3,4-dihydronaphthalene HCl | Cl.NCC1=CCCC2=CC(=C(C=C12)OC)OC | InChI=1S/C13H17NO2.ClH/c1-15-12-6-9-4-3-5-10(8-14)11(9)7-13(12)16-2;/h5-7H,3-4,8,14H2,1-2H3;1H
